US05621009
(4) Preparation of n-propyl ferulate
Ferulic acid (4.85 g) and then n-propyl alcohol (50 ml) containing hydrogen chloride (4%) were placed in an egg-plant type flask (200 ml), and heated under reflux overnight. The disappearance of the starting material was confirmed by thin layer chromatography (TLC: n-hexane/ethyl acetate=2/1), then the solvent was evaporated under reduced pressure by a rotary evaporator. Benzene was added to the residue, and then, the solvent was again evaporated by a rotary evaporator to obtain the crude product. The resulting crude product was separated and purified by silica gel column chromatography (diameter=5.5×7.0 cm; 60 g; n-hexane/ethyl acetate=2/1) to obtain the above-identified compound (5.48 g, 91.6%) as colorless oil.

reactant | Ferulic acid | 4.85 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | n-propyl alcohol | 50 ml | C(CC)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | n-propyl ferulate | 5.48 g, 91.6% | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OCCC | C13H16O4
